US07384945B2
Amino-4-[tert-butoxycarbonyl-(4-trifluoromethoxy-benzyl)-amino]-benzoic acid allyl ester
2 g of 4-[tert-butoxycarbonyl-(4-trifluoromethoxy-benzyl)-amino]-3-nitro-benzoic acid allyl ester (4.0 mmol) were dissolved in 20 ml DMF. 2.8 g SnCl2×2 H2O (12 mmol) are added and the reaction stirred at room temperature for 16 h. The crude was filtered over Kieselgel and the solvent evaporated. MS(ISP): 467.3 (M+H)+.

reactant | 4-[tert-butoxycarbonyl-(4-trifluoromethoxy-benzyl)-amino]-3-nitro-benzoic acid allyl ester | 4.0 mmol, 2 g | C(C=C)OC(C1=CC(=C(C=C1)N(CC1=CC=C(C=C1)OC(F)(F)F)C(=O)OC(C)(C)C)[N+](=O)[O-])=O | C23H23F3N2O7
reactant | SnCl2 | 2.8 g | Cl[Sn]Cl
reactant | H2O | 12 mmol | O | H2O
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Amino-4-[tert-butoxycarbonyl-(4-trifluoromethoxy-benzyl)-amino]-benzoic acid allyl ester | C(C=C)OC(C1=C(C=C(C=C1)N(CC1=CC=C(C=C1)OC(F)(F)F)C(=O)OC(C)(C)C)N)=O | C23H25F3N2O5
